US06410556B1
To a solution of 2-amino-5-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (209 mg, 0.51 mmol) in dry N,N-dimethylformamide (4 ml) was added 3-indole-glyoxylic acid (141 mg, 0.74 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide, hydrochloride (152 mg, 0.76 mmol), and 1-hydroxy-benzotriazole (100 mg, 0.74 mmol). The mixture was stirred at room temperature for 16 hours, diluted with dichloromethane (100 ml) and washed with water (100 ml), brine (100 ml), dried (MgSO4), filtered, and concentrated in vacuo. The residue was subjected to flash chromatography using a mixture of ethyl acetate/hexanes (2:5) as eluent, which afforded 143 mg (40%) of 2-amino-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-5-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.51 mmol, 209 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CN)CC2=CC=C(C=C2)OC)N | C21H29N3O3S
reactant | 3-indole-glyoxylic acid | 0.74 mmol, 141 mg | N1C=C(C2=CC=CC=C12)C(C(=O)O)=O | C10H7NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide, hydrochloride | 0.76 mmol, 152 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-benzotriazole | 0.74 mmol, 100 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-amino-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 143 mg, 40% | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CNC(C(=O)C2=CNC1=CC=CC=C21)=O)CC2=CC=C(C=C2)OC)N | C31H34N4O5S
